US08729105B2
Preparation of 5-(4-chloro-3-fluorophenyl)-6-(2-methoxyethoxy)nicotinic acid
The title compound was synthesized in analogy to Example BQ using 5-bromo-6-(2-methoxyethoxy)-3-pyridinecarboxylic acid (CAN 912454-34-3) and B-(4-chloro-3-fluorophenyl)-boronic acid (CAN 137504-86-0) as starting materials; LC-MS (UV peak area/ESI) 100%, 324.0456 (M−H)−.

reactant | 5-bromo-6-(2-methoxyethoxy)-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1OCCOC)C(=O)O | C9H10BrNO4
reactant | B-(4-chloro-3-fluorophenyl)-boronic acid | ClC1=C(C=C(C=C1)B(O)O)F | C6H5BClFO2
product | 5-(4-chloro-3-fluorophenyl)-6-(2-methoxyethoxy)nicotinic acid | ClC1=C(C=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCCOC)F | C15H13ClFNO4
